US05407943
1. 7-Benzyloxycarbonyl-1,1-dichloro-7-azaspiro[3.5]-nonan-3 -one
To a stirred solution of 1-benzyloxycarbonyl-4-methylenepiperidine (11.1 g, 49.3 mmol) and zinc-copper couple (95: 5, 7.98 g, 12.2 mmol) in 200 ml of anhydrous ether was added a solution of trichloroacetyl chloride (10.18 ml, 91.2 mmol) and phosphorous oxychloride (8.77 ml, 94.0 mmol) in 50 ml of anhydrous ether. The reaction mixture was refluxed overnight. After cooling to room temperature, the solution was filtered through celite and the filtrate was washed with brine and cold sodium bicarbonate, dried over magnesium sulfate and upon evaporation afforded the title compound as a yellow liquid, 15.3 g (crude).

reactant | 1-benzyloxycarbonyl-4-methylenepiperidine | 49.3 mmol, 11.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=C | C14H17NO2
reactant | trichloroacetyl chloride | 91.2 mmol, 10.18 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorous oxychloride | 94.0 mmol, 8.77 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | zinc-copper couple | 12.2 mmol, 7.98 g | [Cu].[Zn]
product | 7-Benzyloxycarbonyl-1,1-dichloro-7-azaspiro[3.5]-nonan-3 -one | C(C1=CC=CC=C1)OC(=O)N1CCC2(C(CC2(Cl)Cl)=O)CC1 | C16H17Cl2NO3
